US08912188B2
To a solution of methyl 2-(5-bromopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (150.0 mg, 0.36 mmol) in methanol (30 mL) was added sodium hydroxide (43 mg, 1.08 mmol) and water (1 mL) The reaction mixture was stirred overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (30 mL) and adjusted to PH 5 with HCl (3 N). The product were collected by filtration to afford 2-(5-bromopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (120.0 mg, 80%).

reactant | methyl 2-(5-bromopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.36 mmol, 150.0 mg | BrC=1C=C(C=NC1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C19H19BrN4O2
reactant | sodium hydroxide | 1.08 mmol, 43 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 2-(5-bromopyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 120.0 mg, 80% | BrC=1C=C(C=NC1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C18H17BrN4O2
